US04476321
(c) N-(2-Pentafluoroethoxyphenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea
3.2 g of 2-pentafluoroethoxyphenylsulfonyl isocyanate and 1.4 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine are stirred in 40 ml of dioxane for 3 hours at 90°-100° C. The solution is then cooled to 20° C., filtered, and concentrated to about 1/4 of its volume. After addition of ether, 3.3 g of N-(2-pentafluoroethoxyphenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea crystallise from the residue. Melting point: 157°-159° C.

reactant | 2-pentafluoroethoxyphenylsulfonyl isocyanate | 3.2 g | FC(C(F)(F)F)(OC1=C(C=CC=C1)S(=O)(=O)N=C=O)F | C9H4F5NO4S
reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 1.4 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | N-(2-Pentafluoroethoxyphenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | FC(C(F)(F)F)(OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C)F | C14H12F5N5O5S
